US08912180B2
To a solution of 2-(difluoromethyl)-1-[2-(methylsulfanyl)-6-morpholin-4-ylpyrimidin-4-yl]-1H-benzimidazole (3 g) in dichloromethane (60 mL) was added m-chloroperbenzoic acid (75% wet) (1.9 g) under ice-cooling, and the mixture was stirred at 0° C. for 15 minutes. To the reaction mixture was added a saturated aqueous sodium bicarbonate solution, followed by extraction with dichloromethane. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and then the residue was purified by silica gel column chromatography (chloroform:methanol) to obtain 2-(difluoromethyl)-1-[2-(methylsulfinyl)-6-morpholin-4-ylpyrimidin-4-yl]-1H-benzimidazole (2.8 g) as a white amorphous substance.

reactant | 2-(difluoromethyl)-1-[2-(methylsulfanyl)-6-morpholin-4-ylpyrimidin-4-yl]-1H-benzimidazole | 3 g | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)SC)C=CC=C2)F | C17H17F2N5OS
reactant | m-chloroperbenzoic acid | 1.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 2-(difluoromethyl)-1-[2-(methylsulfinyl)-6-morpholin-4-ylpyrimidin-4-yl]-1H-benzimidazole | 2.8 g | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)S(=O)C)C=CC=C2)F | C17H17F2N5O2S
